US07332508B2
1-(1-Ethylpropyl)-4-{[5-(biphenyl-4-yl)[1,2,4]oxadiazol-3-yl]methyl}piperidine, Hydrochloride
The title compound was prepared by a similar procedure to that described in Example 12, starting from 2-((1-ethylpropyl)piperidin-4-yl)-N-hydroxyacetamidine and 4-phenylbenzoyl chloride.

reactant | 2-((1-ethylpropyl)piperidin-4-yl)-N-hydroxyacetamidine | C(C)C(CC)N1CCC(CC1)CC(=N)NO | C12H25N3O
reactant | 4-phenylbenzoyl chloride | C1(=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO
product | 1-(1-Ethylpropyl)-4-{[5-(biphenyl-4-yl)[1,2,4]oxadiazol-3-yl]methyl}piperidine, Hydrochloride | Cl.C(C)C(CC)N1CCC(CC1)CC1=NOC(=N1)C1=CC=C(C=C1)C1=CC=CC=C1 | InChI=1S/C25H31N3O.ClH/c1-3-23(4-2)28-16-14-19(15-17-28)18-24-26-25(29-27-24)22-12-10-21(11-13-22)20-8-6-5-7-9-20;/h5-13,19,23H,3-4,14-18H2,1-2H3;1H
